2119-12-22 07:54:00 Physician Resident Progress Note
Chief Complaint: alcohol withdrawal
   24 Hour Events:
 INVASIVE VENTILATION - START [**2119-12-21**] 08:03 PM
 EKG - At [**2119-12-21**] 11:51 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2119-12-22**] 12:12 AM
   Other medications:
   Changes to medical and family history:
   sedated
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-12-22**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36
C (96.8
   HR: 81 (60 - 81) bpm
   BP: 114/87(93) {93/62(70) - 114/87(93)} mmHg
   RR: 19 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.8 kg (admission): 91.9 kg
             Total In:
                                                                    569 mL
                                                                    910 mL
   PO:
             TF:
   IVF:
                                                                    569 mL
                                                                    910 mL
   Blood products:
   Total out:
                                                                    620 mL
                                                                    780 mL
   Urine:
                                                                    620 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -51 mL
                                                                    130 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 429 (429 - 475) mL
   PS : 15 cmH2O
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 98
   PIP: 24 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 10.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: rales
   anteriorly)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   210 K/uL
   14.4 g/dL
   94 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.7 mEq/L
   11 mg/dL
   103 mEq/L
   138 mEq/L
   42.9 %
   7.9 K/uL
        [image002.jpg]
                             [**2119-12-21**]  11:25 PM
                             [**2119-12-22**]  04:02 AM
                             [**2119-12-22**]  06:07 AM
   WBC
   6.2
   6.6
   7.9
   Hct
   39.2
   40.1
   42.9
   Plt
   171
   210
   Cr
   0.6
   0.7
   0.6
   Glucose
   87
   80
   94
   Other labs: PT / PTT / INR:14.2/26.9/1.2, ALT / AST:222/138, Alk Phos /
   T Bili:75/10.3, Amylase / Lipase:/1836, Albumin:2.7 g/dL, Ca++:8.4
   mg/dL, Mg++:2.0 mg/dL, PO4:4.3 mg/dL
   ECG: sinus, left axis, LBBB, LVH, borderline QT
   Assessment and Plan
 PANCREATITIS, ACUTE
   48M with h/o recurrent etoh pancreatitis transferred here for ERCP,
   found to have CBD stricture, now s/p stent, and remains intubated due
   to agitation from ETOH withdrawal.
   .
   # Intubation/Respiratory failure:  Pt remains intubated due to
   agitation from ETOH withdrawal.  Evidence of increased secretion this
   morning, increased bilateral opactities on CXR.  Concern for aspiration
   pneumonitis vs. pneumonia.
   - will consider extubation if secretions improve
   - will start  empiric coverage for HAP and aspiration PNA with vanc,
   cefepime, cipro
   - maintain on propofol to assess mental status periodically
   - daily SBT
   .
   # AMS:  This is likely ETOH withdrawal, timing is consistent.  Pt
   increasingly tachycardic, agitated, and tremuluous on the floor prior
   to ERCP, though no fevers or labile blood pressures.  Can also consider
   hepatic encephalopathy.  Last known drink was [**2119-12-15**].
   - maintain on propofol gtt while intubated to assess mental status
   periodically
   - CIWA with diazepam 10 mg IV Q3H PRN
   - MVI/F/T
   - Social work when extubated
   .
   # Acute ETOH pancreatitis:  Lipase improving with IVFs.  Check
   triglycerides while on propofol.
   - trend LFTs and lipase, improving post-procedure
   .
   # Elevated LFTs:  Pt found to have CBD stricture, now s/p stent.  TB
   should improve in the next couple of days.  If no improvement, consider
   worsening ETOH hepatitis.  Likely also has underlying cirrhosis given
   ETOH history, spider angiomas on exam.
   - trend LFT's
   - NPO
   - IVFs
   ..
   # FEN: IVFs, replete electrolytes, NPO
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals
   # Communication: Patient
   # Code:  Full (discussed with wife)
   # Disposition: pending above
   ICU Care
 see above
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2119-12-21**] 08:18 PM
   20 Gauge - [**2119-12-21**] 08:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2119-12-22 10:22:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Propofol for sedation overnight --> now off.  Aggitation improved
   overall.
   Somnulant.
   Copious brown-colored sputum via ETT.
   SBT marginal this AM.
   No clinical signs of withdrawal.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2119-12-22**] 12:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: Agitated, No(t) Suicidal, No(t) Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2119-12-22**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.5
   HR: 90 (60 - 90) bpm
   BP: 118/87(94) {93/62(70) - 118/87(94)} mmHg
   RR: 24 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.8 kg (admission): 91.9 kg
             Total In:
                                                                    569 mL
                                                                  1,113 mL
   PO:
             TF:
   IVF:
                                                                    569 mL
                                                                  1,113 mL
   Blood products:
   Total out:
                                                                    620 mL
                                                                  1,060 mL
   Urine:
                                                                    620 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -51 mL
                                                                     53 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 685 (429 - 685) mL
   PS : 15 cmH2O
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 98
   PIP: 24 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 12.2 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : diffuse on right, No(t) Diminished: , No(t) Absent : ,
   Rhonchorous: Marked on right)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese, Firm
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   14.4 g/dL
   210 K/uL
   94 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.7 mEq/L
   11 mg/dL
   103 mEq/L
   138 mEq/L
   42.9 %
   7.9 K/uL
        [image002.jpg]
                             [**2119-12-21**]  11:25 PM
                             [**2119-12-22**]  04:02 AM
                             [**2119-12-22**]  06:07 AM
   WBC
   6.2
   6.6
   7.9
   Hct
   39.2
   40.1
   42.9
   Plt
   171
   210
   Cr
   0.6
   0.7
   0.6
   Glucose
   87
   80
   94
   Other labs: PT / PTT / INR:14.2/26.9/1.2, ALT / AST:222/138, Alk Phos /
   T Bili:75/10.3, Amylase / Lipase:/2038, Albumin:2.7 g/dL, Ca++:8.4
   mg/dL, Mg++:2.0 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   48 yom recurrent EtOH pancreatitis, s/p ERCP with CBD stricture --> s/p
   stent, now with peresistent respiratory failure.
   RESPIRATORY FAILURE -- persisitent, multifactorial.  Suspect
   predominately pneumonitis, with evolving RLL pneumonia.  Plan continue
   mechanical ventilation.  Repeat SBT.  Advance ETT.
   RLL INFILTRATE -- evidence for effusion, likely related to
   subdiaphragmatic process and possible pneumonia.  Would iniate
   antimicrobials for aspiration pneumonia.
   AGGITATION -- attributed in part to EtOH withdrawal, medications and
   intubation.  Monitor.  Continue CIWA.
   ALTERED MENTAL STATUS -- attributed to EtOH withdrawal, intubation, abd
   pain.
   ACUTE PANCREATITIS -- attributed to EtOH, chronic, recurrent.
   ELEVATED LFTs -- now s/p ERCP.  Monitor
   FLUILDS -- replete.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2119-12-21**] 08:18 PM
   20 Gauge - [**2119-12-21**] 08:19 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2119-12-23 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - failed extubation [**12-26**] copious, ugly looking sputum
   - witnessed aspiration, started Abx got CXR will stop Sunday if proves
   to be chemical pneumonitis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2119-12-22**] 07:34 PM
   Cefipime - [**2119-12-23**] 12:12 AM
   Ciprofloxacin - [**2119-12-23**] 02:17 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Diazepam (Valium) - [**2119-12-22**] 10:20 AM
   Heparin Sodium (Prophylaxis) - [**2119-12-23**] 12:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-12-23**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37
C (98.6
   HR: 74 (74 - 109) bpm
   BP: 96/67(74) {96/64(72) - 143/99(109)} mmHg
   RR: 14 (14 - 39) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.1 kg (admission): 91.9 kg
   Height: 70 Inch
             Total In:
                                                                  5,241 mL
                                                                  1,366 mL
   PO:
             TF:
   IVF:
                                                                  5,241 mL
                                                                  1,366 mL
   Blood products:
   Total out:
                                                                  2,130 mL
                                                                    440 mL
   Urine:
                                                                  2,130 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,111 mL
                                                                    926 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 423 (402 - 685) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 172
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///26/
   Ve: 10.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   218 K/uL
   13.9 g/dL
   96 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.6 mEq/L
   6 mg/dL
   105 mEq/L
   139 mEq/L
   41.7 %
   7.9 K/uL
        [image002.jpg]
                             [**2119-12-21**]  11:25 PM
                             [**2119-12-22**]  04:02 AM
                             [**2119-12-22**]  06:07 AM
                             [**2119-12-23**]  03:56 AM
   WBC
   6.2
   6.6
   7.9
   7.9
   Hct
   39.2
   40.1
   42.9
   41.7
   Plt
   171
   210
   218
   Cr
   0.6
   0.7
   0.6
   0.7
   Glucose
   87
   80
   94
   96
   Other labs: PT / PTT / INR:15.1/28.0/1.3, ALT / AST:152/74, Alk Phos /
   T Bili:79/7.7, Amylase / Lipase:/214, Albumin:2.7 g/dL, LDH:198 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.6 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   48M with h/o recurrent etoh pancreatitis transferred here for ERCP,
   found to have CBD stricture, now s/p stent, and remains intubated due
   to agitation from ETOH withdrawal.
   .
   # Intubation/Respiratory failure:  Evidence of increased secretion this
   morning, increased bilateral opactities on CXR.  Concern for aspiration
   pneumonitis vs. pneumonia.
   - will consider extubation if secretions improve
   - Continue abx for HAP and aspiration PNA with vanc, cefepime, cipro
   d2/8-10
   - reassess CXR tomorrow and if improved likely chemical pneumonitis and
   can d/c abx
   - maintain on propofol to assess mental status periodically
   - daily SBT
   - I/O even today
   .
   # AMS:  This is likely ETOH withdrawal, timing is consistent.  Pt
   increasingly tachycardic, agitated, and tremuluous on the floor prior
   to ERCP, though no fevers or labile blood pressures.  Can also consider
   hepatic encephalopathy.  Last known drink was [**2119-12-15**].
   - maintain on propofol gtt while intubated to assess mental status
   periodically
   - CIWA with diazepam 10 mg IV Q3H PRN
   - MVI/F/T
   - Social work when extubated
   .
   # Acute ETOH pancreatitis:  Lipase improving with IVFs.  Check
   triglycerides while on propofol.
   - trend LFTs and lipase, way down post-procedure
   .
   # Elevated LFTs:  Pt found to have CBD stricture, now s/p stent.  TB
   should improve in the next couple of days.  If no improvement, consider
   worsening ETOH hepatitis.  Likely also has underlying cirrhosis given
   ETOH history, spider angiomas on exam.
   - trend LFT's
   - NPO
   - IVFs
   ..
   # FEN: IVFs, replete electrolytes, NPO
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals
   # Communication: Patient
   # Code:  Full (discussed with wife)
   # Disposition: pending above
   ICU Care
 see above
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2119-12-21**] 08:18 PM
   20 Gauge - [**2119-12-21**] 08:19 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: none
   VAP:
   Comments:
   Communication:  Comments:  Wife
   [**Name (NI) 36**] status: Full code
   Disposition:

2119-12-23 09:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Copious thick yellow secretions, failed SBT, ?witnessed aspiration
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2119-12-23**] 12:12 AM
   Ciprofloxacin - [**2119-12-23**] 02:17 AM
   Vancomycin - [**2119-12-23**] 08:40 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Diazepam (Valium) - [**2119-12-22**] 10:20 AM
   Heparin Sodium (Prophylaxis) - [**2119-12-23**] 12:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2119-12-23**] 09:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98
   HR: 73 (73 - 109) bpm
   BP: 102/71(80) {96/64(72) - 143/99(109)} mmHg
   RR: 28 (14 - 39) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.1 kg (admission): 91.9 kg
   Height: 70 Inch
             Total In:
                                                                  5,241 mL
                                                                  1,732 mL
   PO:
             TF:
   IVF:
                                                                  5,241 mL
                                                                  1,732 mL
   Blood products:
   Total out:
                                                                  2,130 mL
                                                                    620 mL
   Urine:
                                                                  2,130 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,111 mL
                                                                  1,112 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 321 (321 - 424) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 172
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 11.6 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: No(t) PERRL, Right globe opacified
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: scattered)
   Abdominal: Soft
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Tactile stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   13.9 g/dL
   218 K/uL
   96 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.6 mEq/L
   6 mg/dL
   105 mEq/L
   139 mEq/L
   41.7 %
   7.9 K/uL
        [image002.jpg]
                             [**2119-12-21**]  11:25 PM
                             [**2119-12-22**]  04:02 AM
                             [**2119-12-22**]  06:07 AM
                             [**2119-12-23**]  03:56 AM
   WBC
   6.2
   6.6
   7.9
   7.9
   Hct
   39.2
   40.1
   42.9
   41.7
   Plt
   171
   210
   218
   Cr
   0.6
   0.7
   0.6
   0.7
   Glucose
   87
   80
   94
   96
   Other labs: PT / PTT / INR:15.1/28.0/1.3, ALT / AST:152/74, Alk Phos /
   T Bili:79/7.7, Amylase / Lipase:/214, Albumin:2.7 g/dL, LDH:198 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.6 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR:  ETT in good position after advancing, opacification at
   both bases, probable effusion R>L
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE:  Secondary to fluid overload and
   pneumonia as noted below.  Plan to stop ocntinuous fluids, diurese.
   Change sedation to fentanyl/versed, stop propofol given this is turning
   into a more prolonged intubation.
 PNEUMONIA:  Given significant increase in purulent secretions via ETT
   and question of witnessed aspiration concerned for VAP vs. aspiration
   PNA.  Antibiotics initiated.  Follow up on culture results.
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES):
 PANCREATITIS, ACUTE:  Lipase significantly decreased.  Abdomen soft.
   Still NPO, will readdress nutrition in next 24 hours, consider starting
   postpyloric tube.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2119-12-23**] 04:48 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2119-12-24 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: CE negative x 3
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2119-12-23**] 09:00 PM
   Cefipime - [**2119-12-23**] 11:52 PM
   Ciprofloxacin - [**2119-12-24**] 01:58 AM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-12-23**] 11:19 AM
   Heparin Sodium (Prophylaxis) - [**2119-12-23**] 11:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-12-24**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.3
   HR: 89 (69 - 89) bpm
   BP: 108/61(73) {94/55(65) - 117/81(93)} mmHg
   RR: 5 (5 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.3 kg (admission): 91.9 kg
   Height: 70 Inch
             Total In:
                                                                  2,721 mL
                                                                    314 mL
   PO:
             TF:
   IVF:
                                                                  2,721 mL
                                                                    314 mL
   Blood products:
   Total out:
                                                                  1,560 mL
                                                                    340 mL
   Urine:
                                                                  1,560 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,161 mL
                                                                    -26 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 963 (321 - 963) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 12
   RSBI Deferred: No Spon Resp
   PIP: 12 cmH2O
   SpO2: 97%
   ABG: ///31/
   Ve: 5.9 L/min
   Physical Examination
   Gen: intubated, sedated
   HEENT: PERRL, sclera anicteric
   CV: obscured by rhonchorous breath sounds, no murmurs appreciated
   PULM: coarse rhonchi diffusely
   AB: soft, NT/ND, +BS
   EXT: 1+ edema in bilat LE
   NEURO: sedated, opens eyes but not following commands
   Labs / Radiology
   253 K/uL
   13.8 g/dL
   90 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.0 mEq/L
   7 mg/dL
   103 mEq/L
   139 mEq/L
   41.7 %
   10.9 K/uL
        [image002.jpg]
                             [**2119-12-21**]  11:25 PM
                             [**2119-12-22**]  04:02 AM
                             [**2119-12-22**]  06:07 AM
                             [**2119-12-23**]  03:56 AM
                             [**2119-12-23**]  11:20 AM
                             [**2119-12-23**]  05:54 PM
                             [**2119-12-24**]  03:49 AM
   WBC
   6.2
   6.6
   7.9
   7.9
   10.9
   Hct
   39.2
   40.1
   42.9
   41.7
   41.7
   Plt
   171
   210
   218
   253
   Cr
   0.6
   0.7
   0.6
   0.7
   0.7
   TropT
   0.02
   0.01
   0.01
   Glucose
   87
   80
   94
   96
   90
   Other labs: PT / PTT / INR:15.1/28.0/1.3
    ALT / AST:122/46, Alk Phos / T Bili:90/6.4, Amylase / Lipase:/214,
   Albumin:2.5 g/dL, LDH:189 IU/L
[**2119-12-22**] 11:55 am SPUTUM      Source: Endotracheal.
 GRAM STAIN (Final [**2119-12-22**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CHAINS.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
      SPARSE GROWTH Commensal Respiratory Flora.
         STREPTOCOCCUS PNEUMONIAE.    SPARSE GROWTH.
   Assessment and Plan
   48M with h/o recurrent etoh pancreatitis transferred here for ERCP,
   found to have CBD stricture, now s/p stent, and remains intubated due
   to agitation from ETOH withdrawal.
   .
   # Intubation/Respiratory failure:  Continued purulent secretions,
   increased bilateral opactities on CXR consistent with pleural effusion
   and consolidation on right, and consolidation vs. atelectasis on left.
   WBC increasing from low baseline, possibly suggestive of worsening
   infection. Sputum cx growing S. pneumo, so there is concern for
   parapneumonic effusion vs. empyema. Prognosis affected by alcohol
   history and resultant immunosuppression.
   - cover S. pneumo with CTX, continue vancomycin until more culture data
   available
   - D/C cefepime, cipro given known S. pneumo
   - CT to evaluate pleural effusion (loculations)
   - attempt bedside thoracentesis
   - pleural effusion most likely related to infection, but will maintain
   TBB even to slightly positive today
   - daily SBT
   - f/u blood cx
   - add on diff
   .
   # AMS: Initially c/w ETOH withdrawal, now more likely related to
   sedation.  Can also consider hepatic encephalopathy.  Last known drink
   was [**2119-12-15**].
   - continue fent/midaz, which should cover withdrawal and patient out of
   window for severe reaction
   - consider weaning sedation after workup complete (mon)
   - MVI/F/T
   - Social work when extubated
   .
   # Acute ETOH pancreatitis:  Lipase improving.  Pt found to have CBD
   stricture, now s/p stent.  TB improving daily. Likely also has
   underlying cirrhosis given ETOH history, spider angiomas on exam.
   - trend LFTs and lipase, way down post-procedure
   - cont IVF boluses for MAP>65 and UOP>30cc/hr
   .
   # FEN: IR for PICC and  post-pyloric feeding tube tomorrow, NPO for
   today
   # Prophylaxis: Subcutaneous heparin, pantoprazole
   # Access: peripherals
   # Communication: Patient
   # Code:  Full (discussed with wife)
   # Disposition: ICU pending above
   ICU Care
   Nutrition: consider TPN today, post-pyloric feeding tube tomorrow:
   Lines:
   18 Gauge - [**2119-12-21**] 08:18 PM
   20 Gauge - [**2119-12-21**] 08:19 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:  Wife
   [**Name (NI) 36**] status: Full code
   Disposition: ICU pending extubation

2119-12-24 10:07:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Still being suctioned for thick, tan lower airway secretions
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2119-12-23**] 11:52 PM
   Ciprofloxacin - [**2119-12-24**] 01:58 AM
   Vancomycin - [**2119-12-24**] 08:17 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-12-23**] 11:19 AM
   Heparin Sodium (Prophylaxis) - [**2119-12-23**] 11:51 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2119-12-24**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.9
   HR: 84 (69 - 89) bpm
   BP: 97/58(67) {89/55(65) - 117/81(93)} mmHg
   RR: 8 (5 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.3 kg (admission): 91.9 kg
   Height: 70 Inch
             Total In:
                                                                  2,721 mL
                                                                    554 mL
   PO:
             TF:
   IVF:
                                                                  2,721 mL
                                                                    554 mL
   Blood products:
   Total out:
                                                                  1,560 mL
                                                                    380 mL
   Urine:
                                                                  1,560 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,161 mL
                                                                    174 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 673 (423 - 963) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 12
   RSBI Deferred: No Spon Resp
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: ///31/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: right eye opacified
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: right base,
   Rhonchorous: bilaterally)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   13.8 g/dL
   253 K/uL
   90 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.0 mEq/L
   7 mg/dL
   103 mEq/L
   139 mEq/L
   41.7 %
   10.9 K/uL
        [image002.jpg]
                             [**2119-12-21**]  11:25 PM
                             [**2119-12-22**]  04:02 AM
                             [**2119-12-22**]  06:07 AM
                             [**2119-12-23**]  03:56 AM
                             [**2119-12-23**]  11:20 AM
                             [**2119-12-23**]  05:54 PM
                             [**2119-12-24**]  03:49 AM
   WBC
   6.2
   6.6
   7.9
   7.9
   10.9
   Hct
   39.2
   40.1
   42.9
   41.7
   41.7
   Plt
   171
   210
   218
   253
   Cr
   0.6
   0.7
   0.6
   0.7
   0.7
   TropT
   0.02
   0.01
   0.01
   Glucose
   87
   80
   94
   96
   90
   Other labs: PT / PTT / INR:15.1/28.0/1.3, CK / CKMB /
   Troponin-T:26/2/0.01, ALT / AST:122/46, Alk Phos / T Bili:90/6.4,
   Amylase / Lipase:/214, Albumin:2.5 g/dL, LDH:189 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.6 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR:
   Microbiology: Sputum: sparse growth strep pneumoniae
   Assessment and Plan
 PNEUMONIA, PNEUMOCOCCAL:  Now growing pneumococcus, will tailor
   antibiotic to vanco/CTX pending senistivities.  Concerned about
   complicated parapneumonic effusion given rise in WBC, question of
   increasing effusion on chest film.  Plan to send for noncontrast CT of
   the chest to evaluate further.  Possible diagnostic thorocentesis later
   today.  Continue fentanyl/versed.  Continue ventilatory support.
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES):  On
   versed drip.
 PANCREATITIS, ACUTE:  Plan for placement of a postpyloric tube and
   initiation of tube feeds.   PICC placement to optimize access.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2119-12-23**] 04:48 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2119-12-25 06:45:00 Physician Resident Progress Note
Chief Complaint: hypoxic respiratory failure
   24 Hour Events:
 THORACENTESIS - At [**2119-12-24**] 05:00 PM
 PICC LINE - START [**2119-12-24**] 07:00 PM
   - discontinued cefepime, cipro and converted to vanc, ceftriaxone for
   better Strep pneumo coverage; can hopefully d/c vanc when sensitivities
   return
   - CT chest non-con to eval right chest
   - did bedside [**Female First Name (un) 217**], removed ~300 cc of serous pleural fluid
   - had right PICC placed
   - in for post-pyloric feeding tube placement for [**2119-12-25**]
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2119-12-23**] 11:52 PM
   Ciprofloxacin - [**2119-12-24**] 01:58 AM
   Ceftriaxone - [**2119-12-24**] 12:40 PM
   Vancomycin - [**2119-12-24**] 08:00 PM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-12-24**] 12:01 PM
   Heparin Sodium (Prophylaxis) - [**2119-12-25**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   sedated and intubated
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2119-12-25**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.5
   HR: 74 (60 - 87) bpm
   BP: 109/60(73) {89/47(58) - 114/71(81)} mmHg
   RR: 12 (5 - 17) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.8 kg (admission): 91.9 kg
   Height: 70 Inch
             Total In:
                                                                  1,297 mL
                                                                    111 mL
   PO:
             TF:
   IVF:
                                                                  1,297 mL
                                                                    111 mL
   Blood products:
   Total out:
                                                                  1,340 mL
                                                                    500 mL
   Urine:
                                                                  1,340 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -43 mL
                                                                   -389 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 561 (535 - 839) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 68
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 34.2 cmH2O/mL
   SpO2: 97%
   ABG: ///30/
   Ve: 5.9 L/min
   Physical Examination
   Gen: intubated, sedated
   HEENT: PERRL, sclera anicteric
   CV: obscured by rhonchorous breath sounds, no murmurs appreciated
   PULM: coarse rhonchi diffusely
   AB: soft, NT/ND, +BS
   EXT: 1+ edema in bilat LE
   NEURO: sedated, opens eyes but not following commands
   Labs / Radiology
   224 K/uL
   13.0 g/dL
   76 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.2 mEq/L
   8 mg/dL
   101 mEq/L
   137 mEq/L
   39.9 %
   8.3 K/uL
        [image002.jpg]
                             [**2119-12-21**]  11:25 PM
                             [**2119-12-22**]  04:02 AM
                             [**2119-12-22**]  06:07 AM
                             [**2119-12-23**]  03:56 AM
                             [**2119-12-23**]  11:20 AM
                             [**2119-12-23**]  05:54 PM
                             [**2119-12-24**]  03:49 AM
                             [**2119-12-25**]  04:00 AM
   WBC
   6.2
   6.6
   7.9
   7.9
   10.9
   8.3
   Hct
   39.2
   40.1
   42.9
   41.7
   41.7
   39.9
   Plt
   171
   210
   218
   253
   224
   Cr
   0.6
   0.7
   0.6
   0.7
   0.7
   0.7
   TropT
   0.02
   0.01
   0.01
   Glucose
   87
   80
   94
   96
   90
   76
   Other labs: PT / PTT / INR:15.8/29.6/1.4, CK / CKMB /
   Troponin-T:26/2/0.01, ALT / AST:88/40, Alk Phos / T Bili:87/5.2,
   Amylase / Lipase:/138, Differential-Neuts:82.3 %, Lymph:7.7 %, Mono:6.9
   %, Eos:2.9 %, Albumin:2.5 g/dL, LDH:181 IU/L, Ca++:8.5 mg/dL, Mg++:1.5
   mg/dL, PO4:4.0 mg/dL
   Pleural fluid:
   [**2119-12-24**] 04:53PM ANALYSIS
   WBC, Pleural 1375* #/uL 0 - 0
   RBC, Pleural 173* #/uL 0 - 0
   Polys 51* % 0 - 0
   Lymphocytes 10* % 0 - 0
   Monos 0 % 0 - 0
   Mesothelial Cells 3* % 0 - 0
   Macrophages 36* % 0 - 0
   PIGMENT LADEN
   Total Protein, Pleural
                                                                       1.8
                                    g/dL
   Glucose, Pleural
                                                                        87
                                    mg/dL
   pH 7.35
   Lactate Dehydrogenase, Pleural
                                                                       112
                                    IU/L
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 PANCREATITIS, ACUTE
   48M with h/o recurrent etoh pancreatitis transferred here for ERCP,
   found to have CBD stricture, now s/p stent, and remains intubated due
   to sedation and agitation when sedation decreased.
   # Intubation/Respiratory failure:
   Primary obstacle to extubation is likely sedation. Also with
   streptoccal pneumonia. Pleural effusion tapped yesterday and not
   concerning for empyema.
   - daily SBT
   - will attempt to decrease sedation as much as able
   - diuresis with 10mg IV furosemide to optimize for extubation
   # Pneumonia, streptococcus growing in sputum
   - cover S. pneumo with CTX, continue vancomycin until more culture data
   available
   - D/C cefepime, cipro given known S. pneumo
   - will contact  micro [**Name2 (NI) **] to make sure that sensitivities are reported
   # Pleural effusion
   Exudative though with pH 7.35 so not concerning for empyema, no
   indication for chest tube. Likely parapneumonic effusion vs ?cirrhosis.
   # Acute ETOH pancreatitis:  Lipase improving.  Pt found to have CBD
   stricture, now s/p stent.  TB improving daily. Likely also has
   underlying cirrhosis given ETOH history, spider angiomas on exam.
   -continue to trend LFTs and lipase
   -no IVF today as will attempt to diurese
   # AMS: Initially c/w ETOH withdrawal, now more likely related to
   sedation.  Can also consider hepatic encephalopathy.  Last known drink
   was [**2119-12-15**].
   - will attempt to wean sedation and reassess mental status
   # Bilary obstruction
   Improving s/p stent placement
   # Transaminitis/elevate INR
   Could be part of obstructive picture and improving s/p stent; however
   should consider w/u for alcoholic hepatitis/cirrhosis. Does not have
   abdominal imaging here. INR also elevated but could be [**12-26**] nutritional
   deficits.
   # Alcoholism
   - MVI/F/T
   - Social work when extubated
   # FEN: no IVF, diuresing; hold off enteral feeds for now as may be able
   to extubate within next few days
   # Prophylaxis: Subcutaneous heparin, pantoprazole
   # Access: peripherals
   # Communication: wife
   # Code:  Full (discussed with wife)
   # Disposition: ICU pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2119-12-23**] 04:48 AM
   PICC Line - [**2119-12-24**] 07:00 PM
   Prophylaxis:
   DVT:  SC heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2119-12-26 07:10:00 Physician Resident Progress Note
Chief Complaint: Pancreatitis/EtOH withdrawl
   24 Hour Events:
   - GI wants general surgery consult in AM to evaluate his pancreatic
   cyst
   - Negative 1.8L with Lasix 10 IV ONCE, repeating again
   - Decreased his sedation, currently on PSV and propofol, trying for
   extubation tomorrow am
   - Strep pneumo sensitities pending
   - If RUE still swollen please order U/S to r/o DVT before rounds
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2119-12-23**] 11:52 PM
   Ciprofloxacin - [**2119-12-24**] 01:58 AM
   Ceftriaxone - [**2119-12-25**] 12:15 PM
   Vancomycin - [**2119-12-25**] 07:18 PM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-12-25**] 10:06 AM
   Heparin Sodium (Prophylaxis) - [**2119-12-25**] 04:00 PM
   Furosemide (Lasix) - [**2119-12-26**] 02:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-12-26**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 64 (56 - 102) bpm
   BP: 100/53(64) {91/51(62) - 136/73(87)} mmHg
   RR: 13 (7 - 15) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.8 kg (admission): 91.9 kg
   Height: 70 Inch
             Total In:
                                                                  1,395 mL
                                                                    126 mL
   PO:
             TF:
   IVF:
                                                                  1,395 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                  3,240 mL
                                                                  2,020 mL
   Urine:
                                                                  3,240 mL
                                                                  2,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,845 mL
                                                                 -1,894 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 454 (454 - 642) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 14
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 26
   PIP: 11 cmH2O
   Plateau: 22 cmH2O
   SpO2: 96%
   ABG: ///27/
   Ve: 6.5 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: RUE edema
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   281 K/uL
   13.2 g/dL
   85 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.3 mEq/L
   8 mg/dL
   98 mEq/L
   136 mEq/L
   40.3 %
   10.0 K/uL
        [image002.jpg]
                             [**2119-12-21**]  11:25 PM
                             [**2119-12-22**]  04:02 AM
                             [**2119-12-22**]  06:07 AM
                             [**2119-12-23**]  03:56 AM
                             [**2119-12-23**]  11:20 AM
                             [**2119-12-23**]  05:54 PM
                             [**2119-12-24**]  03:49 AM
                             [**2119-12-25**]  04:00 AM
                             [**2119-12-26**]  12:51 AM
   WBC
   6.2
   6.6
   7.9
   7.9
   10.9
   8.3
   10.0
   Hct
   39.2
   40.1
   42.9
   41.7
   41.7
   39.9
   40.3
   Plt
   171
   210
   218
   [**Telephone/Fax (3) 12991**]
   Cr
   0.6
   0.7
   0.6
   0.7
   0.7
   0.7
   0.6
   TropT
   0.02
   0.01
   0.01
   Glucose
   87
   80
   94
   96
   90
   76
   85
   Other labs: PT / PTT / INR:15.8/29.6/1.4, CK / CKMB /
   Troponin-T:26/2/0.01, ALT / AST:88/40, Alk Phos / T Bili:87/5.2,
   Amylase / Lipase:/138, Differential-Neuts:78.7 %, Lymph:9.2 %, Mono:8.6
   %, Eos:3.5 %, Albumin:2.5 g/dL, LDH:181 IU/L, Ca++:8.5 mg/dL, Mg++:1.7
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PNEUMONIA, ASPIRATION
   strep pneumo in sputum
 PANCREATITIS, ACUTE
 PLEURAL EFFUSION, ACUTE
   exudative but unlikely empyema
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 CHOLESTASIS
   improving s/p biliary stenting
 COAGULOPATHY
 ALCOHOL ABUSE
   48M with h/o recurrent etoh pancreatitis transferred here for ERCP,
   found to have CBD stricture, now s/p stent, and remains intubated due
   to sedation and agitation when sedation decreased.
   # Intubation/Respiratory failure:
   Patient improving and passed SBP.
   - Extubation today, seems to be doing very well so far.
   - Aggressive chest PT
   - Incentive spirometry
   - Continue diuresis with 10mg IV furosemide to optimize for extubation
   # RUE Edema: Concerning for DVT in PICC line.
   - RUE U/S
   # Pneumonia, streptococcus growing in sputum
   - cover S. pneumo with CTX, continue vancomycin until more culture data
   available
   - F/u S. pneumo sensitivities and narrow abx coverage per sensitivities
   # Pleural effusion
   Exudative though with pH 7.35 so not concerning for empyema, no
   indication for chest tube. Likely parapneumonic effusion.
   - Repeat CXR in [**12-27**] days to ensure resolution of effusion, sooner if
   any clinical change
   # Acute ETOH pancreatitis:  Lipase improving.  Pt found to have CBD
   stricture, now s/p stent.  Enzymes improving daily. Likely also has
   underlying cirrhosis given ETOH history, spider angiomas on exam.
   -continue to trend LFTs and lipase
   -no IVF today as will attempt to diurese
   -Pending a swallow evaluation, will consider advancing diet likely
   tomorrow
   -Hold on tube feeds
   # AMS: Initially c/w ETOH withdrawal, now more likely related to
   sedation.  Can also consider hepatic encephalopathy.  Last known drink
   was [**2119-12-15**]. Mental status much improved currently, pt responding to
   questions appropriately and pt seems oriented to self and place.
   -Monitor
   # Bilary obstruction  Improving s/p stent placement
   -Monitor for sx and abdominal exam
   # Transaminitis/elevate INR
   Could be part of obstructive picture and improving s/p stent; however
   should consider w/u for alcoholic hepatitis/cirrhosis. Does not have
   abdominal imaging here. INR also elevated but could be [**12-26**] nutritional
   deficits.
   -Monitor for signs of bleeding
   # Alcoholism
   - MVI/F/T
   - Social work today
   # FEN: no IVF, diuresing; hold off enteral feeds for now as may be able
   to extubate within next few days
   # Prophylaxis: Subcutaneous heparin, pantoprazole
   # Access: peripherals, PICC R arm
   # Communication: wife
   # Code:  Full (discussed with wife)
   # Disposition: ICU pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2119-12-23**] 04:48 AM
   PICC Line - [**2119-12-24**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 48M EtOH pancreatitis, CBD stent, etoh
   withdrawal, pneumonia. Thoracentesis c/w parapneumonic effusion, not
   empyema. Diuresed well post lasix.  Extubated this am.
   Exam notable for AF  BP 107/53  HR 60 RR 13 sat 96% RA  Alert. Follows
   simple commands. Coarse BS B. RRR s1s2 faint SM. Soft +BS. NT, 3+
   edema. RUE > LUE edema. Labs notable for WBC 10K, HCT 40, K+ 4.3,
   Cr 0.6.
   Agree with plan to manage pneumococcal pneumonia with CTX/vanco pending
    sputum sensitivities. He is now extubated, doing well. Encourage IC,
   aggressive chest PT, continue nebs.  For pancreatitis, will monitor abd
   exam while following labs. Has stent for CBD stricture.  Will check RUE
   US given risk for PICC-associated clot. Will assess swallow as more
   alert.  If fails, or if pancreatic enzymes increase post- diet, would
   place post-pyloric DHT and initiate TFS for nutrition.
   Continue MVI/thiamine folate. Remainder of plan as outlined above. ICU:
   sq hep, PPI, assess swallow when more alert.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2119-12-26**] 04:58 PM ------

2119-12-27 07:59:00 Physician Resident Progress Note
Chief Complaint: Alcohol withdrawl
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2119-12-26**] 09:35 AM
   [**2119-12-26**]
   -per ercp no need to call surgery just yet
   -extubated
   -started heparin for dvt in rue, plan to d/c picc after new picc placed
   on left...still no new picc at 2am
   -possible call-out tomorrow
   -advancing diet (no problems swallowing [**Name8 (MD) **] RN)
   .
   [**2119-12-27**]
   -ordered pm LFTs for slightly climbing LDH, tbili
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2119-12-26**] 12:00 PM
   Vancomycin - [**2119-12-26**] 08:05 PM
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Heparin Sodium - [**2119-12-26**] 04:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Flowsheet Data as of  [**2119-12-27**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**21**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.2
   HR: 83 (68 - 103) bpm
   BP: 135/77(91) {110/58(70) - 144/86(97)} mmHg
   RR: 20 (6 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.8 kg (admission): 91.9 kg
   Height: 70 Inch
             Total In:
                                                                  1,020 mL
                                                                    232 mL
   PO:
             TF:
   IVF:
                                                                  1,020 mL
                                                                    232 mL
   Blood products:
   Total out:
                                                                  5,160 mL
                                                                  1,850 mL
   Urine:
                                                                  5,160 mL
                                                                  1,850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,140 mL
                                                                 -1,618 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///33/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   322 K/uL
   13.8 g/dL
   101 mg/dL
   0.5 mg/dL
   33 mEq/L
   3.6 mEq/L
   7 mg/dL
   92 mEq/L
   135 mEq/L
   40.8 %
   9.5 K/uL
        [image002.jpg]
                             [**2119-12-22**]  04:02 AM
                             [**2119-12-22**]  06:07 AM
                             [**2119-12-23**]  03:56 AM
                             [**2119-12-23**]  11:20 AM
                             [**2119-12-23**]  05:54 PM
                             [**2119-12-24**]  03:49 AM
                             [**2119-12-25**]  04:00 AM
                             [**2119-12-26**]  12:51 AM
                             [**2119-12-26**]  10:14 AM
                             [**2119-12-27**]  03:48 AM
   WBC
   6.6
   7.9
   7.9
   10.9
   8.3
   10.0
   9.5
   Hct
   40.1
   42.9
   41.7
   41.7
   39.9
   40.3
   40.8
   Plt
   [**Telephone/Fax (2) 13009**]
   Cr
   0.7
   0.6
   0.7
   0.7
   0.7
   0.6
   0.6
   0.5
   TropT
   0.02
   0.01
   0.01
   Glucose
   80
   94
   96
   90
   76
   85
   109
   101
   Other labs: PT / PTT / INR:16.0/135.1/1.4, CK / CKMB /
   Troponin-T:26/2/0.01, ALT / AST:67/53, Alk Phos / T Bili:100/4.2,
   Amylase / Lipase:/844, Differential-Neuts:80.9 %, Lymph:9.5 %, Mono:6.5
   %, Eos:2.9 %, Albumin:2.5 g/dL, LDH:290 IU/L, Ca++:8.7 mg/dL, Mg++:1.7
   mg/dL, PO4:3.3 mg/dL
   Imaging: RUE U/S [**2119-12-26**]
   There is complete occlusion of the right cephalic vein with thrombus.
   The
   right brachial, right basilic, right axillary, and right internal
   jugular and
   right subclavian veins are patent with no evidence of deep venous
   thrombosis.
   Microbiology: S. Pneumo sensitivities pending
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PNEUMONIA, ASPIRATION
   strep pneumo in sputum
 PANCREATITIS, ACUTE
 PLEURAL EFFUSION, ACUTE
   exudative but unlikely empyema
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 CHOLESTASIS
   improving s/p biliary stenting
 COAGULOPATHY
 ALCOHOL ABUSE
 ALTERED MENTAL STATUS
   48M with h/o recurrent etoh pancreatitis transferred here for ERCP,
   found to have CBD stricture, now s/p stent, and remains intubated due
   to sedation and agitation when sedation decreased.
   # Intubation/Respiratory failure:
   Pt s/p extubation and doing quite well from a respiratory standpoint.
   - Continue Aggressive chest PT
   - Continue Incentive spirometry
   - PT consult and get patient OOB to chair and beyond
   - Hold on lasix as pt seems to be autodiuresing.
   # RUE DVT: Complete occlusion, significant edema, and association with
   PICC warrants anticoagulation.
   -DC heparin gtt
   -START lovenox 90mg SC Q12H
   -R PICC pulled
   -New L PICC in place
   # Pneumonia, streptococcus growing in sputum
   - cover S. pneumo with CTX, continue vancomycin until more culture data
   available
   - F/u S. pneumo sensitivities and narrow abx coverage per sensitivities
   - Called lab today, they mentioned speciation will be ready by tomorrow
   [**2119-12-28**]
   # Pleural effusion
   Exudative though with pH 7.35 so not concerning for empyema, no
   indication for chest tube. Likely parapneumonic effusion.
   - Repeat CXR in [**12-27**] days to ensure resolution of effusion, sooner if
   any clinical change
   # Acute ETOH pancreatitis:  Lipase worsening acutely. Likely also has
   underlying cirrhosis given ETOH history, spider angiomas on exam.
   -continue to trend LFTs and lipasew
   -Make NPO for now
   -no IVF, continue to autodiurese
   -Will consider advancing diet likely tomorrow
   -Hold on tube feeds
   # AMS: Mental status worse this morning. Consider hepatic
   encephalopathy.  Last known drink was [**2119-12-15**] therefore unlikely to be
   acutely withdrawing. Consider multifactorial etiology with prolonged
   ICU stay, acute infection.
   -Monitor mental status
   -Check ammonia
   -RUQ ultrasound to evaluate for cirrhosis
   # Bilary obstruction  Improving s/p stent placement
   -Monitor for sx and abdominal exam
   # Transaminitis/elevate INR
   Could be part of obstructive picture and improving s/p stent; however
   should consider w/u for alcoholic hepatitis/cirrhosis. Does not have
   abdominal imaging here. INR also elevated but could be [**12-26**] nutritional
   deficits. LFTs improving overall.
   -Monitor for signs of bleeding
   # Alcoholism
   - MVI/F/T
   - Social work recs
   # FEN: no IVF, autodiuresing; hold off enteral feeds for now, replete
   lytes PRN
   # Prophylaxis: lovenox, pantoprazole
   # Access: peripherals, PICC L arm
   # Communication: wife
   # Code:  Full (discussed with wife)
   # Disposition: Pt will be called out to floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2119-12-24**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Patient initially refused physical exam.
   During rounds: No asterixus, RRR, no RMG, CTAB, no WRR, RUE edema
   unchanged. No neck engorgement. New PICC in place does not appear
   infiltrated. Pt [**Name (NI) **]2 (unaware of the year, date, says he
s in a
   hospital but can
t recall which one).
   ------ Protected Section Addendum Entered By:[**First Name4 (NamePattern1) 129**] [**Last Name (NamePattern1) 9411**], MD
   on:[**2119-12-27**] 14:26 ------